US04207341
9.6 g. 4-Chlorobenzoyl chloride are added dropwise to a solution of 14.1 g ethyl 2-[4-(2-aminoethyl)-phenyl]-2-methylpropionate hydrochloride in 90 ml anhydrous pyridine at 5°-10° C. The reaction mixture is kept at 10° C. for 90 minutes, then allowed to warm up to ambient temperature and subsequently heated to 45° C. for 10 minutes. A part thereof remains undissolved. The reaction mixture is stirred into 750 ml. ice water, filtered with suction and the filter cake then washed. There are obtained 13.2 g (68% of theory) ethyl 2-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-2-methylpropionate which, after recrystallization from isopropanol, melts at 108°-109° C.

reactant | 4-Chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethyl 2-[4-(2-aminoethyl)-phenyl]-2-methylpropionate hydrochloride | 14.1 g | Cl.NCCC1=CC=C(C=C1)C(C(=O)OCC)(C)C
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-2-methylpropionate | 13.2 g, 68% | ClC1=CC=C(C(=O)NCCC2=CC=C(C=C2)C(C(=O)OCC)(C)C)C=C1 | C21H24ClNO3
